US07473797B2
Methyl (Z)-5-phenyl-2-penten-4-ynoate (Table 3, entry 2):
The general procedure was used to convert phenylacetylene and (Z)-methyl-3-iodoacrylate to the title product. Purification by flash chromatography (15% ethyl acetate in hexanes as the eluent) gave the analytically pure product as a light yellow oil (336 mg, 90% yield). 1H NMR (400 MHz, CDCl3) δ 7.54 (m, 2H), 7.35 (m, 3H), 6.36 (d, J=11.39, 1H), 6.14 (d, J=11.41, 1H), 3.80 (s, 3H). 13C NMR (100 MHz, CDCl3) δ 165.25, 132.16, 129.28, 128.42, 127.79, 123.22, 122.63, 101.45, 86.37, 51.55. Anal. Calc'd. for C12H10O2: C, 77.40; H, 5.41; Found C, 77.41; H, 5.35.

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | (Z)-methyl-3-iodoacrylate | COC(\C=C/I)=O | C4H5IO2
product | Methyl (Z)-5-phenyl-2-penten-4-ynoate | C1(=CC=CC=C1)C#C\C=C/C(=O)OC | C12H10O2
